US08207199B2
A mixture of diisopropylamine (3.23 g) and THF (20 mL) was cooled to 0° C., and 1.57 M n-butyllithium/hexane (20.4 mL) was slowly added thereto, followed by stirring at the same temperature for 1 hour. Then, the mixture was cooled to −70° C., and acetophenone (3.84 g) was added dropwise thereto, followed by stirring at the same temperature for 1 hour (reaction liquid 1). Meanwhile, to a suspension of 1-[(pyridin-3-yloxy)carbonyl]piperidine-4-carboxylic acid (2.0 g) in THF (30 mL) was added CDI (1.56 g), followed by stirring at room temperature for 1 hour (reaction liquid 2). The reaction liquid 2 was cooled to −70° C., and the reaction liquid 1 was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Then, the mixture was warmed to 0° C. and then warmed to room temperature. To the reaction liquid was added 0.1 M hydrochloric acid (50 mL), then water and ethyl acetate were added thereto, and the organic phase was separated. The organic phase was washed with water and saturated brine, and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 90/10) to obtain pyridin-3-yl 4-(3-oxo-3-phenylpropanoyl)piperidine-1-carboxylate (0.93 g).

reactant | diisopropylamine | 3.23 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.57 M, 20.4 mL | C(CCC)[Li].CCCCCC
reactant | acetophenone | 3.84 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 1-[(pyridin-3-yloxy)carbonyl]piperidine-4-carboxylic acid | 2.0 g | N1=CC(=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | CDI | 1.56 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydrochloric acid | 0.1 M, 50 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | pyridin-3-yl 4-(3-oxo-3-phenylpropanoyl)piperidine-1-carboxylate | 0.93 g | O=C(CC(=O)C1CCN(CC1)C(=O)OC=1C=NC=CC1)C1=CC=CC=C1 | C20H20N2O4
